US08293916B2
Step 4: 2-Chloro-4-[1-(4-methoxy-3-trifluoromethyl-phenyl)-2,5-dimethyl-1H-imidazol-4-ylethynyl]-pyridine
A solution of 3-Chloro-2-(2-chloro-pyridin-4-yl)-3-[1-(4-methoxy-3-trifluoromethyl-phenyl)-2,5-dimethyl-1H-imidazol-4-yl]-propenal (0.9 g, 1.9 mmol) in 8 mL THF was dropped to a cold (0° C.) suspension of potassium tert-butoxide (0.47 g, 4.2 mmol) in 4 mL THF and water (0.04 mL, 2.1 mmol). The light brown reaction mixture was stirred at 0° C. for 1 hr. The reaction was extracted two times with ethyl acetate, saturated NaHCO3− solution, water and brine. The combined organic extracts were dried with sodium sulfate, filtered and evaporated. The crude product was purified by chromatography on silica gel (n-heptane/ethyl acetate 90:10→0:100) to obtain the desired product as a white solid (0.15 g, 19%), MS: m/e=406.2 (M+H+).

reactant | 3-Chloro-2-(2-chloro-pyridin-4-yl)-3-[1-(4-methoxy-3-trifluoromethyl-phenyl)-2,5-dimethyl-1H-imidazol-4-yl]-propenal | 1.9 mmol, 0.9 g | ClC(=C(C=O)C1=CC(=NC=C1)Cl)C=1N=C(N(C1C)C1=CC(=C(C=C1)OC)C(F)(F)F)C | C21H16Cl2F3N3O2
reactant | potassium tert-butoxide | 4.2 mmol, 0.47 g | CC(C)([O-])C.[K+]
reactant | water | 2.1 mmol, 0.04 mL | O | H2O
solvent | THF | 8 mL | C1CCOC1 | C4H8O
solvent | THF | 4 mL | C1CCOC1 | C4H8O
product | 2-Chloro-4-[1-(4-methoxy-3-trifluoromethyl-phenyl)-2,5-dimethyl-1H-imidazol-4-ylethynyl]-pyridine | 0.15 g, 19% | ClC1=NC=CC(=C1)C#CC=1N=C(N(C1C)C1=CC(=C(C=C1)OC)C(F)(F)F)C | C20H15ClF3N3O
